US03984336
β-Phenylmercaptopropionitrile was prepared according to the procedure of Example 1 using thiophenol (25.0 g; 0.23 moles), acrylonitrile (12.2 g; 0.23 moles) and sodium methoxide (0.5 g).

reactant | thiophenol | 0.23 moles, 25.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | acrylonitrile | 0.23 moles, 12.2 g | C(C=C)#N | C3H3N
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
product | β-Phenylmercaptopropionitrile | C1(=CC=CC=C1)SCCC#N | C9H9NS
